US06979696B2
The (4-chloro-1H-indol-3-yl)-acetonitrile used in step 1 was prepared from commercially obtained 4-chloro-1H-indole (Aldrich Chemical Co. Cat. No. 24,622-0) using the procedure of steps 4 and 5 of Example 1. To (4-chloro-1H-indol-3-yl)-acetonitrile (500 mg, 2.62 mmol) dissolved in anhydrous dichloromethane (10 mL) was added chlorosulfonyl isocyanate (0.92 mL, 10.50 mmol). After 1.5 hours, the reaction was filtered and the resulting solid was washed with dichloromethane. The solid was then dissolved in acetone and water (2.5 mL) was added. The reaction mixture was concentrated to dryness to yield 4-Chloro-3-cyanomethyl-indole-1-carboxylic acid amide as a pale pink solid (377 mg, 62%). 1H NMR (DMSO-d6) δ: 4.27 (br s, 2H), 7.28 (m, 2H), 7.78 (br s, 2H), 7.98 (s, 1H), 8.28 (m, 1H); M+233.

reactant | (4-chloro-1H-indol-3-yl)-acetonitrile | ClC1=C2C(=CNC2=CC=C1)CC#N | C10H7ClN2
reactant | 4-chloro-1H-indole | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | (4-chloro-1H-indol-3-yl)-acetonitrile | 2.62 mmol, 500 mg | ClC1=C2C(=CNC2=CC=C1)CC#N | C10H7ClN2
reactant | chlorosulfonyl isocyanate | 10.50 mmol, 0.92 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-Chloro-3-cyanomethyl-indole-1-carboxylic acid amide | 377 mg, 62% | ClC1=C2C(=CN(C2=CC=C1)C(=O)N)CC#N | C11H8ClN3O
